US06660872B1
Methyl 2-(2-Hydroxyphenyl)-2-methoxyimino-acetate (Example II-1e)
5 g of acetyl chloride (0.064 mol) are added dropwise to 50 ml of methanol. 4.8 g (0.025 mol) of benzofuran-2,3-dione 3-(O-methyl-oxime) 2-oxime are dissolved in this mixture, and the reaction mixture is then heated under reflux for 12 hours. After cooling to room temperature, the mixture is poured into water and the product is extracted with diethyl ether. The organic phase is washed with aqueous sodium bicarbonate solution and dried over sodium sulphate, and the solvent is distilled off under reduced pressure. This gives 4.33 g of crude product which, according to HPLC, contains 27.4% methyl E-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=1.48 and 56% methyl Z-2-(2-hydroxyphenyl)-2-methoxyimino-acetate of log p=2.37.

reactant | acetyl chloride | 0.064 mol, 5 g | C(C)(=O)Cl | C2H3ClO
reactant | methanol | 50 ml | CO | CH4O
reactant | benzofuran-2,3-dione 3-(O-methyl-oxime) 2-oxime | 0.025 mol, 4.8 g | CON=C1C(OC2=C1C=CC=C2)=NO | C9H8N2O3
solvent | water | O | H2O
product | Methyl 2-(2-Hydroxyphenyl)-2-methoxyimino-acetate | OC1=C(C=CC=C1)C(C(=O)OC)=NOC | C10H11NO4
